US06610696B2
C. 2-{4-[2-(2-Biphenyl-4-yl-5-propyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid methyl ester
A sample of 2-(4-{3-[(biphenyl-4-carbonyl)-amino]-4-oxo-heptyloxy}-phenoxy)-2-methyl-propionic acid methyl ester (514 mg, 0.99 mmol) was dissolved in 6 mL of dry DMF followed by addition of phosphorus oxychloride (0.28 mL, 2.88 mmol, 3 equiv.). The mixture was heated at 90° C. for 20 minutes under a nitrogen atmosphere. The reaction mixture was then allowed to cool to room temperature followed by addition of cold water (10 mL) and additional stirring for 10 minutes. Sufficient 1.0 N NaOH was then added to achieve neutral pH. The mixture was partitioned between ethyl ether (100 mL) and water (50 mL). The aqueous layer was back-extracted with ethyl ether (100 mL) and the organic phases combined, which were then washed with 5% aq LiCl, dried over NaCl, and concentrated in vacuo to yield an oil which was immediately subjected to silica gel chromatography (ethyl acetate/hexanes) to yield 484 mg (98%) of an oil. HPLC RT1=12.70 min; 1H NMR (400 MHz, CDCl3) δ8.02 (d, J=8.3 Hz, 2H), 7.64-7.58 (m, 4H), 7.43-7.33 (m, 3H), 6.78-6.72 (m, 4H), 4.17 (t, J=6.3 Hz, 2H), 3.73 (s, 3H), 2.94 (t, J=6.3 Hz, 2H), 2.66 (t, J=7.3 Hz, 2H), 1.73-1.67 (m, 2H), 1.48 (s, 6H), 0.97 (t, J=7.3 Hz, 3H); MS (EI) 500.1 (M+H)+.

reactant | 2-(4-{3-[(biphenyl-4-carbonyl)-amino]-4-oxo-heptyloxy}-phenoxy)-2-methyl-propionic acid methyl ester | 0.99 mmol, 514 mg | COC(C(C)(C)OC1=CC=C(C=C1)OCCC(C(CCC)=O)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C31H35NO6
reactant | phosphorus oxychloride | 2.88 mmol, 0.28 mL, 3 equiv. | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 10 mL | O | H2O
reactant | NaOH | 1.0 N | [OH-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-{4-[2-(2-Biphenyl-4-yl-5-propyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid methyl ester | 484 mg, 98% | COC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1CCC)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C31H33NO5
